US07790709B2
Preparation of (E)-N-(2,3-Diethoxy-benzyl)-N-methyl-3-[3-(2-morpholin-4-yl-ethyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylamide hydrochloride
According to the procedure of Example 1, except substituting 2,3-diethoxy-benzyl-methylamine for the methyl-(1-propyl-naphthalen-2-ylmethyl)amine, and substituting (E)-3-[3-(2-morpholin-4-yl-ethyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylic acid hydrochloride for the (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3,-e][1,4]diazepin-7-yl)acrylic acid hydrochloride, the title compound (0.18 g, 56%) was prepared as an off-white solid: 1H NMR (300 MHz, DMSO-d6) δ 10.63-10.49 (m, 1H), 10.14-10.12 (m, 1H), 8.41-8.31 (m, 1H), 8.03-7.91 (m, 1H), 7.52-7.45 (m, 1H), 7.38-7.19 (m, 1H), 7.03-6.90 (m, 2H), 6.70-6.51 (m, 1H), 4.63-4.51 (m, 4H), 4.02-3.91 (m, 6H), 3.81-3.68 (m, 4H), 3.60-3.50 (m, 2H), 3.40-3.28 (m, 2H), 3.20-2.85 (m, 5H), 1.40-1.31 (m, 6H); MS (ESI) m/e 524 (M+H)+.

reactant | 2,3-diethoxy-benzyl-methylamine | C(C)OC1=C(CNC)C=CC=C1OCC | C12H19NO2
reactant | methyl-(1-propyl-naphthalen-2-ylmethyl)amine | CNCC1=C(C2=CC=CC=C2C=C1)CCC | C15H19N
reactant | (E)-3-[3-(2-morpholin-4-yl-ethyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylic acid hydrochloride | Cl.N1(CCOCC1)CCN1C(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
product | (E)-N-(2,3-Diethoxy-benzyl)-N-methyl-3-[3-(2-morpholin-4-yl-ethyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylamide hydrochloride | 0.18 g, 56% | Cl.C(C)OC1=C(CN(C(\C=C\C2=CC3=C(NC(N(C3)CCN3CCOCC3)=O)N=C2)=O)C)C=CC=C1OCC | InChI=1S/C28H37N5O5.ClH/c1-4-37-24-8-6-7-22(26(24)38-5-2)19-31(3)25(34)10-9-21-17-23-20-33(28(35)30-27(23)29-18-21)12-11-32-13-15-36-16-14-32;/h6-10,17-18H,4-5,11-16,19-20H2,1-3H3,(H,29,30,35);1H/b10-9+;
